Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman EtOH cirrhosis c/b ascites, 
SBP,HE, and HRS, s/p Roux-en-Y gastric bypass c/b G-J stricture 
requiring endoscopic dilations c/b perforation now with 
abdominal wall EC fistula c/b abscesses status post I&D in the 
past from her tube sites, presenting with continued abdominal 
pain.

Of note, the patient was recently admitted from ___ to ___ 
after being evicted from her house and running out of 
medications.

After discharge from ___, she presented to ___ in ___ 
for alcohol detox. She was having drainage from her abdominal 
wound, and was sent from ___ to ___ from 
___ and treated for cellulitis. She returned to ___ 
on ___.

She presented back to ___ from ___ for 
continued abdominal pain. Further workup was negative. She was 
discharged from ___, and ___ would not take her back 
given her medical complexity. So she left ___ to live with 
her brother. 

She presented to ___ on ___. She reports that her abdominal 
pain is worse than it normally is. She reports green discharge 
from her fistula. She reports that the only medication that 
helps with her abdominal pain is dilaudid. She says that Dr. 
___ her dilaudid. Tramadol and Tylenol don't help.

Transplant Surgery evaluated patient and did not recommend any 
acute intervention. Patient was going to be discharged from ED 
but ___ blood cultures from ___ were positive for GPCs in pairs 
and clusters. Patient was started on IV Vancomycin and admitted. 
 

In the ED, initial vitals: 97.5 81 137/80 16 100% RA 
- Exam notable for: abdomen diffusely TTP with fistula on L side 
of abdomen. No drainage. No erythema. 

- Labs notable for: H/H 10.___.4, Tbili 1.9, Alb 3.1, Plts 62, 
lactate 1.6, UCG negative, INR 1.6, BUN/Cr ___ 

- Imaging notable for:  
___ CT ABD/PELVIS W/ CONTRAST:
1. Along the tract of the prior percutaneous jejunostomy, there 
is subtle linear hypodensity with slight rim enhancement, 
suggestive of persistent enterocutaneous fistula. No drainable 
fluid collection.
2. Similar appearance of mild fat stranding along the prior 
gastrostomy tract, with no evidence of tract patency. 
3. Cirrhotic liver, with sequela of portal hypertension 
including trace ascites and splenomegaly.

- Pt given: Hydromorphone 0.5 mg x2, APAP 650 mg PO,
Ciprofloxacin 500 mg PO, Escitalopram 20 mg PO, Levetiracetam
1000 mg PO, Omeprazole 40 mg PO, Spironolactone 50 mg PO,
Torsemide 20 mg PO, Tramadol 50 mg PO, Rifaximin 550 mg PO, APAP
1000 mg PO, Vancomcyin 1 g IV, 1 L LR  
- Vitals prior to transfer: 98.4 80 98/55 18 93% RA 

Upon arrival to the floor, the patient endorses the above
history. She reports progressive weakness over the past few 
weeks
with difficulty standing from a seated position. Her abdominal
pain has been more severe over the past 3 days and she notes
increased greenish discharge from her enterocutaneous fistula
which is not odorous. Her abdominal pain is diffuse but most
severe in the LLQ at the fistula site. She has had no drainage
over the past 12 hours and endorses throbbing in the LLQ. She
notes chills and intermittent shaking. She denies N/V, decreased
PO intake, constipation, chest pain, SOB, orthopnea, ___ 
swelling,
recent EtOH use, sick contacts.

REVIEW OF SYSTEMS:  
Positive per HPI. Otherwise, a 10-point ROS was taken and is
negative.  
 
Past Medical History:
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
- s/p gastric bypass c/b stricture of the gastrojejunal 
anastomosis and internal hernia causing SBO s/p multiple 
endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy ___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy ___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of C. diff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  

 
Social History:
___
Family History:
Per prior discharge summary
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VITALS: 98.8 117/71 92 18 91 Ra 
General: alert, uncomfortable, intermittently tearful, 
interactive 
HEENT: Sclera mildly icteric, PERRL, EOMI, OP clear, MMM
CV: RRR, III/VI holosystolic murmur
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: soft, diffusely tender with voluntary guarding, midline 
and LLQ surgical scar with no obvious drainage, no rebound 
tenderness, +BS, dressing overlying fistula c/d/I, no ascites   
Ext: warm, well-perfused, left ankle swelling from prior fusion 
surgery, no pitting edema  
Skin: Warm, dry 
Neuro: CN II-XII intact, moving all four extremities with 
purpose, A/Ox3, trace asterixis on exam 

DISCHARGE PHYSICAL EXAM:  
========================
24 HR Data (last updated ___ @ 727)
    Temp: 98.0 (Tm 98.3), BP: 99/63 (95-101/60-65), HR: 65
(65-89), RR: 18 (___), O2 sat: 95% (94-96), O2 delivery: Ra,
Wt: 226.7 lb/102.33 kg   
General: lying in bed, comfortable 
CV: RRR, III/VI holosystolic murmur best heard over the LLSB.
Lungs: Clear
Abdomen: non distended (much improved) with minimal tenderness 
diffusely (baseline) 
Ext: warm, well-perfused, left ankle swelling from prior fusion 
surgery, no pitting edema  
Skin: Warm, dry 
Neuro: CN II-XII intact, moving all four extremities with 
purpose, A/Ox3, no asterixis  
 
Pertinent Results:
ADMISSION LABS ___:
WBC-4.7 Hgb-10.1* Hct-30.4* MCV-105* Plt Ct-62*
___ PTT-36.5 ___
Glucose-87 UreaN-11 Creat-0.8 Na-136 K-4.4 Cl-99 HCO3-27 
AnGap-10
ALT-10 AST-33 AlkPhos-93 TotBili-1.9*
Lipase-16
Albumin-3.1* Calcium-9.0 Phos-3.1 Mg-2.0
Lactate-1.6

RELEVANT LABS:
___ AFP-4.6
___ Lipase-23

DISCHARGE LABS ___:
WBC-4.4 Hgb-9.6* Hct-29.5* MCV-105* Plt Ct-88*
___ PTT-35.8 ___
Glucose-104* UreaN-8 Creat-0.8 Na-141 K-4.2 Cl-102 HCO3-27 
AnGap-12
ALT-7 AST-27 AlkPhos-88 TotBili-1.1
Albumin-3.0* Calcium-8.6 Phos-3.5 Mg-1.6

IMAGING (IMPRESSIONS):
___ CT A/P WITH CONTRAST:
1. Along the tract of the prior percutaneous jejunostomy, there 
is subtle 
linear hypodensity with slight rim enhancement, suggestive of 
persistent 
enterocutaneous fistula versus small developing abscess.  No 
drainable fluid collection. 
2. Similar appearance of mild fat stranding along the prior 
gastrostomy tract, with no evidence of tract patency. 
3. Cirrhotic liver, with sequela of portal hypertension 
including trace  ascites and splenomegaly. 
4. Cholelithiasis without evidence for cholecystitis 

___ ECHO: 
No valvular pathology or pathologic flow identified. Normal 
pulmonary artery systolic pressure. Normal left ventricular wall 
thickness and biventricular cavity sizes and regional/global 
systolic function.

___ ABDOMINAL U/S:
1. Liver parenchyma is coarsened and mildly echogenic, 
consistent with diffuse steatosis.
2. There is small volume ascites in the abdomen, but no evidence 
of a  fistulous tract in the left mid to upper abdomen. 
3. Moderate splenomegaly measuring up to 15.2 cm. 

___ CXR:
Comparison to ___.  The lung volumes remain normal. 
 Borderline size of the cardiac silhouette without pulmonary 
edema.  No pneumonia, no pleural effusions.  The only 
abnormality is a minimal left basilar atelectasis, seen on the 
lateral radiograph only, no ready present on the previous 
examination. 

___ BILATERAL LOWER EXTREMITY U/S W/ DOPPLER:
1.  No evidence of deep venous thrombosis in the right or left 
lower extremity veins. 
2.  At the site of reported pain in the anterior left shin, a 
small  subcutaneous calcification is noted.  Please correlate 
clinically. 

___ ABDOMINAL U/S WITH DUPLEX:
1. Patent hepatic vasculature. 
2. Coarsened echogenic hepatic echotexture in keeping with 
cirrhosis.  
Splenomegaly and some ascites suggest component of portal 
hypertension. 
3. Cholelithiasis.  Common bile duct measures up to 10 mm, 
dilated for a 
patient of this age with gallbladder in situ.  A nonvisualized 
distal 
obstructing stone can not be excluded.  Correlate with LFTs.  No 
intrahepatic dilation. 
4. Mild right hydronephrosis of unclear etiology, but appears 
new from ___. 

___ MRCP: 
1. Cholelithiasis without evidence of acute cholecystitis. Mild 
biliary 
dilation, without choledocholithiasis or MRI evidence of acute 
cholangitis. 
2. Mild right hydronephrosis, with the distal aspect of the 
dilated ureter not captured on the current study. Recommend 
further evaluation with CT urogram to exclude underlying 
obstruction. 
3. Ill-defined soft tissue in the left anterolateral abdominal 
wall, 
corresponding to the site of prior percutaneous jejunostomy tube 
placement, with suspicion of a persistent enterocutaneous 
fistula/developing abscess noted on the prior CT. 
4. Cirrhotic liver with mild hepatic steatosis, and sequela of 
portal  hypertension including splenomegaly, trace ascites, 
esophageal and  paraesophageal varices. 

___ CT A/P without contrast:
1. Findings concerning for partial/early small bowel obstruction 
with mild
increase in ascites noted and edematous changes in the mesentery 
and the
retroperitoneum.  There is limited assessment of small bowel 
loop given the lack of IV and oral contrast.
2. Mild new right hydronephrosis, without definite identifiable 
cause of obstruction on today's examination.  Contrast-enhanced 
CT should be considered for better delineation of the right 
ureter.
3. Stable aspect of prior percutaneous gastrostomy tube and 
percutaneous jejunostomy tube sites.  These cannot be adequately 
assessed given the lack of IV and oral contrast.
4. Liver cirrhosis with signs of portal hypertension.

___ PELVIC U/S:
1. The IUD is in appropriate positioning. 
2. Redemonstration of pelvic ascites and dilated small-bowel 
loops. 

___ ABDOMINAL U/S (ISO ACUTE ON CHRONIC PAIN):
1. Cirrhotic liver with stigmata of portal hypertension 
including splenomegaly and mild ascites. 
2. CBD prominence is unchanged and better characterized on 
recent prior MRCP. Persistent mild right hydronephrosis. 
3. Cholelithiasis without evidence of acute cholecystitis. 

___ UPRIGHT KUB:
#1 Dilated loops of small bowel with multiple air-fluid levels 
concerning for small bowel obstruction. 
#2 Persistent small bowel obstruction with air-fluid levels.  No 
evidence of passage of contrast in the colon. 
#3 Persisting small bowel obstruction without evidence of 
passage of contrast into the colon. 
#4 Further passage of contrast into the large bowel suggests 
resolving small bowel obstruction. 

MICROBIOLOGY:
___ 10:45 pm BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ENTEROCOCCUS FAECALIS.    FINAL SENSITIVITIES. 
         HIGH LEVEL GENTAMICIN SCREEN: Resistant to 500 mcg/ml 
of
         gentamicin. Screen predicts NO synergy with penicillins 
or
         vancomycin. Consult ID for treatment options. 
         HIGH LEVEL STREPTOMYCIN SCREEN: Susceptible to 
1000mcg/ml of
         streptomycin.  Screen predicts possible synergy with 
selected
         penicillins or vancomycin.  Consult ID for details.. 
         Daptomycin MIC OF 1.0 MCG/ML test result performed by 
Etest. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECALIS
                             |   
AMPICILLIN------------   <=2 S
DAPTOMYCIN------------       S
PENICILLIN G----------     8 S
VANCOMYCIN------------     1 S

NEGATIVE SURVEILLANCE CULTURES 

 
Brief Hospital Course:
SUMMARY 
=======
Ms. ___ is a ___ woman with history of alcohnol 
cirrhosis (c/b ascites, spontaneous bacterial peritonitis, 
hepatic encephalopathy (HE)), complicated past surgical history 
(Roux-en-Y gastric bypass c/b G-J stricture requiring endoscopic 
dilations c/b perforation now with abdominal wall EC fistula c/b 
abscesses status post I&D in the past from her tube sites), 
presenting with acute on chronic abdominal pain and was found to 
have enterococcus bacteremia.  

TRANSTIONAL ISSUES 
====================
# DISCHARGE WEIGHT: 102.33 kg (225.6 lb)  
# DISCHARGE Cr: 0.8
# CODE STATUS: Full (presumed) 
# CONTACT INFO: 
-Name of health care proxy: ___ 
-Relationship: Mother, Father 
-Phone number: ___ 
-Cell phone: ___ 

# Partial small bowel obstruction
# Chronic constipation 
[] If patient has symptoms of SBO, please do not initiate 
surgical intervention unless absolutely indicated! Patient is 
high risk given her complicated surgical history (frozen 
abdomen) and liver cirrhosis. 
[] CONSIDER RESTARTING LINACLOTIDE for IBS w/ constipation
[] If develops similar symptoms - 1) advise lactulose enema to 
decompress bowel and 2) monitor via serial KUBs with 
gastrografin

# Right Hydronephrosis, mild:
[] Repeat renal U/S by end of ___ to evaluate for 
persistent/progressive hydronpehrosis
[] Consider urology follow up pending above study

# Chronic enterocutaneous fistula
[] Recommend U/S if swollen/painful to r/o abscess; may require 
prophylactic antibiotics if recurrent infection 
[] If uncontrolled bleeding consider referral to interventional 
radiology for embolization.

# Chronic abdominal pain:
[] Continue to wean off Hydromorphone (2mg q12h:PRN) and 
Tramadol (50mg BID:PRN) as these medications are likely 
contributing to slow gut motility and recurrent partial 
obstructions. 
 
# Alcoholic Cirrhosis 
[] Encourage relapse prevention, therapy
[] Due for an EGD later this month
[] Q6 month AFP (normal ___ 
[] Received Hep B and A vaccine first dose on ___
   [] Second dose of Hep B is due on ___
   [] Third dose of Hep B is due on ___
   [] Second dose of Hep A is due on ___   
[] Should receive pneumovax

# Gynecology:
[] Please remove Mirena, as it has been present for ___ years

ACTIVE ISSUES:
# Enterococcus Bacteremia (resolved):
Patient presented with acute on chronic abdominal pain. Blood 
cultures from ___ were positive for Enterococcus that is 
sensitive to ampicillin ___
bottles). TTE was without evidence of endocarditis. Patient was 
treated with Ampicillin for 14 days. Likely source of infection 
is enterocutaneous fistula. Blood cultures from the ___ did 
not show growth. 

# Enterocutaneous (EC) fistula on left side of the abdomen:
Due to prior G tube. Usually expresses green-yellow discharge. 
Patient had an episode of bleeding from EC fistula. The fistula 
is trying to close-up but that causes painful collection 
collection then it opens up and drains and the cycle repeats. 
Surgical intervention is not indicated.  

# Intermittent, partial small bowel obstruction (resolved):
# Chronic constipation:
Acute on chronic abdominal pain associated with PO intake and 
lack of BM x48-72 hours. Endorses similar episodes in the past. 
KUB showed multiple air-fluid levels. Surgery were consulted and 
recommended to watch the patient as she is high risk for 
surgical interventions given her complicated past surgical 
history and "frozen abdomen". Gastrografin follow-through (3 
KUBs over 48 hours) showed delayed but eventual passage of 
contrast material consistent with resolving partial bowel 
obstruction. Improved with lactulose enemas and restarting home 
Metoclopramide for delayed gastric emptying. On discharge, 
patient was able to tolerate regular diet. She was sent home on 
lactulose 30ml TID, miralax QD and bisacodyl suppository PRN. 
Additionally, she was counseled extensively on minimizing 
opiates given that these medications are likely exacerbating her 
slow gastric emptying and constipation. 

# Acute on chronic abdominal pain: etiology unclear, though 
reportedly has a "frozen abdomen" per surgery. DDX includes 
chronic constipation, biliary colic, intermittent SBOs, 
inflammation around the EC fistula. Discharged with 1 week 
supply of home Tramadol and Hydromorphone. 

# Right hydronephrosis, new:
Incidental finding on U/S and MRCP iso acute on chronic 
abdominal pain. Urology consulted and recommended CT 
non-contrast that was negative for obstructing stone. Pelvic U/S 
performed to evaluate mirena ___ years overdue) and was normal. 

# Biliary colic: 
Post-prandial abdominal pain, possibly secondary to biliary 
colic given gallstones on RUQUS. Started on ursodiol. Would 
defer surgery given above.

CHRONIC ISSUES:
# Alcoholic cirrhosis
Complicated by HE, SBP, ascites. ___ B, MELD 12 on 
discharge ___. Followed by Dr. ___. 
- Varices: Last EGD ___ showed portal hypertensive 
gastropathy with no evidence of esophageal varices. 
- Ascites: Continued home Torsemide 60 mg PO DAILY, 
Spironolactone 50 mg PO DAILY. 
- SBP prophylaxis: Continued Ciprofloxacin HCl 500 mg PO Q24H. 
- HE: Lactulose 30mg TID with goal of ___ bowel movements, 
continued Rifaximin 550 mg
PO BID. Miralax was added as patient refuses to take lactulose 
more than BID. 
- Thrombocytopenia: due to hypersplenism in the setting of 
cirrhosis. Plt on discharge ___ 88K   
- Continued home midrodrine 10 mg BID
 
# Social: 
Patient became recently homeless since evicted from her house. 
Patient is moving to ___ to live with her parents. Given hx 
of encephalopathy, she is instructed not to drive.
___: former smoker, remote 5 pack-year history 
Etoh: She denies drinking. Collateral from son reported to nurse 
concern for significant daily alcohol use. 

# Macrocytic anemia: Chronic due to cirrhosis 

# History of epileptoform seizures:
- Continued home LevETIRAcetam 1000 mg PO BID 

# GERD
- Continued home omeprazole 40 mg daily.

# NUTRITION:
Patient s/p Roux-en-y. Previously on tube feeds. 
- Continued Thiamine, multivitamins 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Midodrine 10 mg PO BID 
2. Lactulose 30 mL PO TID 
3. Acetaminophen 650 mg PO Q12H:PRN Pain - Mild/Fever 
4. LevETIRAcetam 1000 mg PO BID 
5. Cyclobenzaprine 5 mg PO BID:PRN Pain 
6. linaCLOtide 145 mcg oral DAILY 
7. Torsemide 60 mg PO DAILY 
8. Spironolactone 50 mg PO DAILY 
9. HYDROmorphone (Dilaudid) 2 mg PO BID:PRN Pain - Moderate 
10. TraMADol 50 mg PO TID:PRN Abdominal pain 
11. Metoclopramide 5 mg PO TID 
12. Omeprazole 40 mg PO DAILY 
13. Ciprofloxacin HCl 500 mg PO Q24H 
14. Rifaximin 550 mg PO BID 
15. Escitalopram Oxalate 20 mg PO DAILY 
16. TraZODone 50 mg PO QHS:PRN Insomnia 
17. Vitamin D ___ UNIT PO 1X/WEEK (FR) 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*2 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*3 
3.  Naloxone Nasal Spray 4 mg IH EVERY 5 MINUTES PRN overdose, 
decreased breathing 
RX *naloxone [Narcan] 4 mg/actuation 1 spray nasal every 5 
minutes Disp #*1 Spray Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [ClearLax] 17 gram/dose 1 powder(s) 
by mouth Daily Disp #*12 Packet Refills:*1 
5.  Simethicone 40-80 mg PO QID:PRN gas pain 
RX *simethicone [Gas Relief 80] 80 mg 1 tab by mouth Three to 
four times daily as needed Disp #*160 Tablet Refills:*4 
6.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth Daily 
Disp #*60 Tablet Refills:*3 
7.  Ursodiol 500 mg PO BID 
RX *ursodiol 500 mg 1 tablet(s) by mouth Twice daily Disp #*120 
Tablet Refills:*4 
8.  Acetaminophen 500 mg PO Q6H 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 6 hours. 
Disp #*90 Tablet Refills:*0 
9.  TraMADol 50 mg PO BID:PRN Pain - Moderate 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth twice daily 
Disp #*14 Tablet Refills:*0 
10.  Ciprofloxacin HCl 500 mg PO Q24H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth Daily 
Disp #*60 Tablet Refills:*3 
11.  Escitalopram Oxalate 20 mg PO DAILY  
12.  HYDROmorphone (Dilaudid) 2 mg PO BID:PRN Pain - Moderate 
RX *hydromorphone 2 mg 1 tablet(s) by mouth twice daily Disp 
#*14 Tablet Refills:*0 
13.  Lactulose 30 mL PO TID  
14.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth Every 
twelve hours Disp #*120 Tablet Refills:*4 
15.  Metoclopramide 5 mg PO TID 
RX *metoclopramide HCl 5 mg 1 tablet by mouth Three times a day 
Disp #*120 Tablet Refills:*3 
16.  Midodrine 10 mg PO BID 
RX *midodrine 10 mg 1 tablet(s) by mouth Every twelve hours Disp 
#*120 Tablet Refills:*0 
17.  Omeprazole 40 mg PO DAILY  
18.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth Every twelve 
hours Disp #*120 Tablet Refills:*0 
19.  Spironolactone 50 mg PO DAILY  
20.  Torsemide 60 mg PO DAILY  
21.  TraZODone 50 mg PO QHS:PRN Insomnia 
RX *trazodone 50 mg 1 tablet(s) by mouth Nightly Disp #*30 
Tablet Refills:*0 
22.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Enterococcus bacteremia
Enterocutaneous fistula

SECONDARY DIAGNOSES: 
ETOH cirrhosis
Acute on chronic abdominal pain
Partial small bowel obstruction
Chronic constipation
Mild (new) right hydronephrosis
Gallstones, concern for biliary colic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
WHY WERE YOU ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you had abdominal 
pain and was found to have bacteria in your blood stream (called 
bacteremia). You were also found to have intermittent partial 
small bowel obstruction. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
- You were given IV antibiotics for 12 days to treat bacteremia. 

- You were seen by transplant surgery and there was no need for 
surgical intervention, 
- You were also found to have dilation in your right ureter 
(called hydronephrosis). 
- You improved and were ready to leave the hospital.  

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL? 
- Given your history of liver disease/encephalopathy, please do 
not drive or operate heavy machinery. 
- Please take all of your medications as prescribed, especially 
lactulose.  Please use the bisacodyl suppository of ___ days if 
no BM.
- Please establish care with the following physicians:
1. Primary care doctor - management of multiple medical problems
2. Hepatology - management of cirrhosis
3. Urology - ultrasound of right kidney (newly enlarged)
4. Gynecology - removal of your mirena
5. Psychiatry - management of depression
- Please maintain a low salt diet and monitor your fluid intake 
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight increases by more 
than 3 pounds.  
- Please do not go in the pool or hot tub as this may increase 
the risk of an infection in your fistula.
- Seek medical attention if you have new or concerning symptoms 
or you develop.  

It was a pleasure participating in your care. We wish you the 
best!
 
- Your ___ Care Team  

 
Followup Instructions:
___